US08937092B2
To a stirred solution of added potassium tertiary butoxide (2.05 g, 18.3 mmol) in dimethylformamide (10 mL) were slowly added the mixture of 1-methyl-2-nitrobenzene (1 g, 7.29 mmol) and ethyl-2-chloropropionate (0.98 mL, 7.70 mmol) at −30° C. The reaction mixture was stirred for 10 min and warmed to room temperature. The residue was dissolved with ethylacetate and neutralized with NaHCO3. The organic layer was washed with water two times, then dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. Ethyl 2-(3-methyl-4-nitrophenyl)propanoate (1.20 g) was obtained as 70% yield.

reactant | potassium tertiary butoxide | 18.3 mmol, 2.05 g | CC(C)([O-])C.[K+]
reactant | 1-methyl-2-nitrobenzene | 7.29 mmol, 1 g | CC1=C(C=CC=C1)[N+](=O)[O-] | C7H7NO2
reactant | ethyl-2-chloropropionate | 7.70 mmol, 0.98 mL | C(C)OC(C(C)Cl)=O | C5H9ClO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | Ethyl 2-(3-methyl-4-nitrophenyl)propanoate | 1.20 g, 70% yield | CC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C | C12H15NO4
